US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (50 mg, 0.073 mmol) in THF (5 mL) were added 3-aminopyridine (14 mg, 0.15 mmol), polystyrene carbodiimide (130 mg, 0.147 mmol, 1.12 mmol/g), and 1-hydroxybenzotriazole hydrate (20 mg, 0.15 mmol). The reaction mixture was stirred at room temperature under nitrogen for 12 h. The reaction was quenched by adding 1N HCl solution (5 mL) and brine (25 mL). The aqueous layer was extracted with methylene chloride (2×50 mL). The organic layer was separated, dried (MgSO4), filtered and concentrated to give the crude product. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic) and lyophilized to afford (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-(pyridin-3-yl)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide (5 mg, 9%) as a dark red solid. To a solution of this material in anhydrous methanol at 0° C. was added 1.25 N HCl in methanol (8 μL, 0.008 mmol) and the mixture was stirred at 0° C. for 30 min. The reaction mixture was concentrated, triturated with diethyl ether, and lyophilized from acetonitrile/water to afford (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-(pyridin-3-yl)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide hydrochloride (5 mg, 95%) as a red-brown powder and as a mixture of diastereomers: 1H NMR (500 MHz, CD3OD) δ 9.43 (s, 1H), 8.55 (d, J=5.0 Hz, 1H), 8.43 (t, J=8.5 Hz, 1H), 8.10 (s, 1H), 7.99 (t, J=16.5 Hz, 1H), 6.70 (s, 1H), 6.17 (s, 0.4H), 6.02 (s, 0.6H), 4.94-4.83 (m, 2H), 3.72 (s, 3H), 3.67 (t, J=3.5 Hz, 1H), 3.63-3.60 (m, 1H), 3.57 (s, 3H), 3.51 (d, J=19.5 Hz, 3H), 3.47-3.37 (m, 2H), 3.26 (d, J=19.0 Hz, 1H), 3.09-2.99 (m, 1H), 2.25 (s, 3H), 1.26 (d, J=6.0 Hz, 1.8H), 1.22 (d, J=6.0 Hz, 1.2H); MS (ESI+) m/z 760 (M+H); HPLC 90.8% (AUC), tR 11.81 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.073 mmol, 50 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 3-aminopyridine | 0.15 mmol, 14 mg | NC=1C=NC=CC1 | C5H6N2
reactant | 1-hydroxybenzotriazole hydrate | 0.15 mmol, 20 mg | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-N-(pyridin-3-yl)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxamide | 5 mg, 9% | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)NC=2C=NC=CC2 | C38H37N3O14
